US06194458B1
Step 1 (R)-(−)-2-phenylbutanol
To a suspension of 2.3 gm of LAH (60.6 mmol) in 70 mL of THF was slowly added a solution of 5 gm of (R)-(−)-2-phenylbutyric acid (30.45 mmol, Aldrich) in 30 mL of THF. The reaction mixture was heated to 60° C. for 3 hr. The reaction was cooled to 0° C. and to it was successively added 2 mL of water, 2 mL of 1N KOH and 2 mL of water. The aluminum salts were removed by filtration and washed with 100 mL of ethylacetate. The filtrate was dried over MgSO4, filtered and concentrated to give the title compound which was used without purification.

reactant | LAH | 60.6 mmol, 2.3 gm | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (R)-(−)-2-phenylbutyric acid | 30.45 mmol, 5 gm | C1(=CC=CC=C1)[C@H](C(=O)O)CC | C10H12O2
reactant | water | 2 mL | O | H2O
reactant | KOH | 1N, 2 mL | [OH-].[K+]
reactant | water | 2 mL | O | H2O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (R)-(−)-2-phenylbutanol | C1(=CC=CC=C1)[C@H](CO)CC | C10H14O
